US05876756
4-(Amino-hydroxyimino)methyl-benzoic acid t-butyl ester
In a mixture of 21.2 ml of t-butanol and 2.1 ml of water were dissolved 4.3 g of 4-cyanobenzoic t-butyl ester, 1.84 g of hydroxylamine hydrochloride and 2.31 g of sodium hydrogen carbonate. The solution was stirred for 2 hours at 80° C. To the reaction mixture was added water, and the mixture was subjected to extraction with ethyl acetate. The organic layer was concentrated under reduced pressure. The concentrate was purified by means of silica gel column chromatography (hexane/ethyl acetate=1/1), followed by crystallization from hexane to afford 4.41 g of the title compound as colorless needles.

reactant | 4-cyanobenzoic t-butyl ester | 4.3 g | C(C)(C)(C)OC(C1=CC=C(C=C1)C#N)=O | C12H13NO2
reactant | hydroxylamine hydrochloride | 1.84 g | Cl.NO
reactant | sodium hydrogen carbonate | 2.31 g | C(O)([O-])=O.[Na+]
solvent | t-butanol | 21.2 ml | C(C)(C)(C)O | C4H10O
solvent | water | 2.1 ml | O | H2O
product | 4-(Amino-hydroxyimino)methyl-benzoic acid t-butyl ester | 4.41 g | C(C)(C)(C)OC(C1=CC=C(C=C1)C=NON)=O | C12H16N2O3
